US06951879B2
In analogy to example 3.1, 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole and Methyl-prop-2-ynyl-amine were converted to yield {3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propyl}-methyl-prop-2-ynyl-amine as colorless oil, MS: 415 (MH+, 1Br).

reactant | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCBr | C16H13Br2NOS
reactant | Methyl-prop-2-ynyl-amine | CNCC#C | C4H7N
product | {3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propyl}-methyl-prop-2-ynyl-amine | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCN(CC#C)C | C20H19BrN2OS
